************************************************************************
* auCdl Netlist:
* 
* Library Name:  Analog_Lab
* Top Cell Name: Lab_3_inverter
* View Name:     schematic
* Netlisted on:  Jan  9 11:01:29 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: Analog_Lab
* Cell Name:    Lab_3_inverter
* View Name:    schematic
************************************************************************

.SUBCKT Lab_3_inverter GND VDD VIN VOUT
*.PININFO VIN:I VOUT:O GND:B VDD:B
MMN0 VOUT VIN GND GND nmos_1p8 W=460e-9 L=180n m=1.0 as=220.8e-15 ad=220.8e-15 
+ ps=1.88e-6 pd=1.88e-6 nrd=1.043478 nrs=1.043478 par=1 dtemp=0
MMP0 VOUT VIN VDD VDD pmos_1p8 W=460e-9 L=180n m=3.0 as=156.4e-15 ad=156.4e-15 
+ ps=1.29333e-6 pd=1.29333e-6 nrd=0.739130 nrs=0.739130 par=3 dtemp=0
.ENDS

